US08034812B2
Production of 2,2,2-trichloroethyl (3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)carbamate
To a two-phase solution of 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine (5.0 g, 23 mmol) in ethyl acetate (45 mL)/3N aqueous sodium hydroxide (20 mL) was added 2,2,2-trichloroethyl chlorocarbonate (4.5 mL, 33 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. The obtained organic layer was washed with 5% aqueous sodium hydrogencarbonate, water and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure to give the title compound (5.0 g, 55%) as a white powder.

reactant | 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine | 23 mmol, 5.0 g | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=CC=C1 | C13H17N3
reactant | sodium hydroxide | 3N, 20 mL | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chlorocarbonate | 33 mmol, 4.5 mL | C(OCC(Cl)(Cl)Cl)(=O)Cl | C3H2Cl4O2
solvent | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trichloroethyl (3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)carbamate | 5.0 g, 55% | C(C)(C)(C)C1=NN(C(=C1)NC(OCC(Cl)(Cl)Cl)=O)C1=CC=CC=C1 | C16H18Cl3N3O2
